US04066570
Preparation of 5-cyano-2-(4-n-pentylphenyl)-pyrimdine
9.1 G. of 2-(p-n-pentylphenyl)-5-pyrimidinecarboxamide are reacted with 100 ml. of phosphorus oxychloride with the exclusion of moisture, worked up and purified in a manner analogous to that described in Example 7. The pure, colorless 5-cyano-2-(4-n-pentylphenyl)-pyrimidine has a melting point of 96.0°-96.2° C. and a clearing point of 109.0° C.

reactant | 2-(p-n-pentylphenyl)-5-pyrimidinecarboxamide | C(CCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)N | C16H19N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-cyano-2-(4-n-pentylphenyl)-pyrimdine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCC | C16H17N3
